US05889032
N-(1-Methylindol-3-ylmethyl)-(2S)-pyrrolidine-2-methanol
To a mixture of formalin (0.33 ml, 48% in H2O) and acetic acid (0.9 ml) was added L-prolinol (0.43 g) with stirring under ice-cooling. After 5 min, 1-methyl indole (0.56 g) was added dropwise to the above reaction mixture, and stirring was continued for 2 h. At the end of this time, reaction mixture was basified with 2N NaOH; the oily residue was extracted with ethyl acetate, dried (Na2SO4), and the solvent was evaporated to dryness to give the title compound (0.87 g, 83%), as a white solid, mp. 46°-48° C.

reactant | formalin | 0.33 ml | C=O | CH2O
reactant | L-prolinol | 0.43 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | 1-methyl indole | 0.56 g | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
product | N-(1-Methylindol-3-ylmethyl)-(2S)-pyrrolidine-2-methanol | 0.87 g, 83% | CN1C=C(C2=CC=CC=C12)CN1[C@@H](CCC1)CO | C15H20N2O
